US07875640B2
5-tert-butyl-3-(2-morpholinoethyl)thiazol-2(3H)-imine
Commercially available 3,3-dimethylbutanal (Aldrich), 2-morpholinoethanamine (Aldrich), potassium thiocyanate (Aldrich) and iodine (EMD chemicals) were processed using the method described in Example 91A to afford the crude product of the title compound. MS (ESI+) m/z 270 (M+H)+.

reactant | 3,3-dimethylbutanal | CC(CC=O)(C)C | C6H12O
reactant | 2-morpholinoethanamine | O1CCN(CC1)CCN | C6H14N2O
reactant | potassium thiocyanate | [S-]C#N.[K+]
reactant | iodine | II | I2
product | 5-tert-butyl-3-(2-morpholinoethyl)thiazol-2(3H)-imine | C(C)(C)(C)C1=CN(C(S1)=N)CCN1CCOCC1 | C13H23N3OS
